US06960664B2
N1-{(1S,2S)-1-(3,5-difluorobenzyl)-3-[1-ethyl-2-(4-methylpentanoyl)hydrazino]-2-hydroxypropyl}-5-methyl-N3,N3-dipropylisophthalamide:
Synthesized as described above from tert-butyl 2-((2S,3S)-3-amino-2-hydroxy-4-(3,5difluorophenyl)butyl)-2-ethylhydrazinecarboxylate, 3-methylpentanoic acid and 5-methyl-N,N-dipropyl-isophthalamic acid. MS (ESI+) for C33H48F2N4O4 m/z 603.3 (M+H)+.

reactant | tert-butyl 2-((2S,3S)-3-amino-2-hydroxy-4-(3,5difluorophenyl)butyl)-2-ethylhydrazinecarboxylate | N[C@H]([C@H](CN(NC(=O)OC(C)(C)C)CC)O)CC1=CC(=CC(=C1)F)F | C17H27F2N3O3
reactant | 3-methylpentanoic acid | CC(CC(=O)O)CC | C6H12O2
reactant | 5-methyl-N,N-dipropyl-isophthalamic acid | CC=1C=C(C=C(C(=O)O)C1)C(=O)N(CCC)CCC | C15H21NO3
product | N1-{(1S,2S)-1-(3,5-difluorobenzyl)-3-[1-ethyl-2-(4-methylpentanoyl)hydrazino]-2-hydroxypropyl}-5-methyl-N3,N3-dipropylisophthalamide | FC=1C=C(C[C@@H]([C@H](CN(NC(CCC(C)C)=O)CC)O)NC(C2=CC(C(=O)N(CCC)CCC)=CC(=C2)C)=O)C=C(C1)F | C33H48F2N4O4
